US07419969B2
3-Chloro-2-cyano-2-(2-hydroxyethoxy)propyl acetate.
A mixture of (2-(chloromethyl)-1,3-dioxolan-2-yl)methyl acetate (67.8 mmol), trimethylsilyl cyanide (20.29 g, 204 mmol, TCI America) and zinc iodide (3.65 g, 11.4 mmol) was heated (40° C., oil bath) for 6 hrs, then at ambient temperature for 16 hrs. The mixture was diluted with CH2Cl2 (100 mL) and stirred with silica gel (50 g) for several hours. The mixture was loaded onto a flash silica gel column (350 g silica) and eluted with CH2Cl2 then increasing amounts of Et2O to a final eluent of 30% Et2O in CH2Cl2. Product fractions were pooled and concentrated in-vacuo to give the title compound as an amber oil: 1H NMR (500 MHz, CDCl3) δ ppm 4.44 (1H, d, J=-11.90 Hz), 4.35 (1H, d, J=11.90 Hz), 3.83-3.88 (2H, m), 3.79-3.84 (4H, m), 2.13-2.16 (3H, m); LC/MS m/z 222.16 (M+H).

reactant | (2-(chloromethyl)-1,3-dioxolan-2-yl)methyl acetate | 67.8 mmol | C(C)(=O)OCC1(OCCO1)CCl | C7H11ClO4
reactant | trimethylsilyl cyanide | 204 mmol, 20.29 g | C[Si](C)(C)C#N | C4H9NSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 11.4 mmol, 3.65 g | [I-].[Zn+2].[I-]
product | 3-Chloro-2-cyano-2-(2-hydroxyethoxy)propyl acetate | C(C)(=O)OCC(CCl)(OCCO)C#N | C8H12ClNO4
